US08865698B2
Step C: Preparation of (R)—N-(5-(4,4-difluoro-2-(3-fluorophenyl)pyrrolidin-1-yl)pyrazolo[1,5-a]pyrimidin-3-yl)-3-hydroxyazetidine-1-carboxamide:
To a DCM (0.7 mL) solution of (R)-5-(4,4-difluoro-2-(3-fluorophenyl)pyrrolidin-1-yl)pyrazolo[1,5-a]pyrimidin-3-amine (25 mg, 0.074 mmol), was added CDI (18 mg, 0.11 mmol) at ambient temperature in one portion. After stirring two hours, azetidin-3-ol hydrochloride (16 mg, 0.15 mmol) was added in one portion, followed by addition of DIEA (0.039 mL, 0.22 mmol). The reaction was stirred overnight, then concentrated, and the residue was directly purified by reverse-phase column chromatography, eluting with 0 to 45% acetonitrile/water to yield the final product as a yellowish oil (15 mg, 48% yield). MS (apci) m/z=433.1 (M+H).

reactant | (R)-5-(4,4-difluoro-2-(3-fluorophenyl)pyrrolidin-1-yl)pyrazolo[1,5-a]pyrimidin-3-amine | 0.074 mmol, 25 mg | FC1(C[C@@H](N(C1)C1=NC=2N(C=C1)N=CC2N)C2=CC(=CC=C2)F)F | C16H14F3N5
reactant | CDI | 0.11 mmol, 18 mg | C1=CN(C=N1)C(=O)N2C=CN=C2 | C7H6N4O
reactant | azetidin-3-ol hydrochloride | 0.15 mmol, 16 mg | Cl.N1CC(C1)O
reactant | DIEA | 0.22 mmol, 0.039 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | DCM | 0.7 mL | C(Cl)Cl | CH2Cl2
product | (R)—N-(5-(4,4-difluoro-2-(3-fluorophenyl)pyrrolidin-1-yl)pyrazolo[1,5-a]pyrimidin-3-yl)-3-hydroxyazetidine-1-carboxamide | 15 mg, 48% yield | FC1(C[C@@H](N(C1)C1=NC=2N(C=C1)N=CC2NC(=O)N2CC(C2)O)C2=CC(=CC=C2)F)F | C20H19F3N6O2
